* C:\Users\chang\OneDrive - Stanford\1st Year\EE 254\Homework 2\problem4_comparator_hysteresis.asc
B1 Vsw 0 V={if(V(fb)>I(L1)-V(sin), 5, -5)}
R1 Vsw fb 576k
R2 N001 fb 100k
L1 x+ N003 500µ
V1 N003 x- SINE(0 169.71 60)
S1 x+ N002 pwms1 0 SWIdeal
S2 0 x+ pwms2 0 SWIdeal
s3 x- N002 pwms3 0 SwIdeal
S4 0 x- pwms4 0 SWIdeal
V4 N002 0 200
B2 pwms4 0 V={if(V(sin)>0,1,0)}
B3 pwms3 0 V={if(V(sin)<0,1,0)}
B4 pwms1 0 V=limit(0,V(Vsw),V(pwms4))
B5 pwms2 0 V=limit(0,(1-V(Vsw)),V(pwms3))
D2 x- N002 D
D3 0 x- D
D4 0 x+ D
V3 sin 0 SINE(0 9.9 60)
R§1 fb P001 100k
V5 P001 0 -5
V6 N001 0 5
D1 x+ N002 D
.model D D
.lib C:\Users\chang\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 0 50m 0 1u uic
.ic V(Vsw)=0
.model D D(Ron=0)
.model SWIdeal SW(Ron=0.1m Roff=10Meg Vt=0.1 Vh=0.1)
.backanno
.end
